US06927228B2
(a) 3-(3′-{[Methyl-(1-phenylmethanoyl)amino]-methyl}biphenyl-4-yl)propionyl chloride
By reacting 1.6 g (4.1 mmol) of 2-methyl-3-(3′-{[methyl-(1-phenylmethanoyl)amino]methyl}biphenyl-4-yl)propionic acid with 390 μl (4.5 mmol) of oxalyl chloride in dichloromethane, and after evaporation, 1.7 g (100%) of 3-(3′-{[methyl-(1-phenylmethanoyl)-amino]methyl}biphenyl-4-yl)propionyl chloride are obtained.

reactant | 2-methyl-3-(3′-{[methyl-(1-phenylmethanoyl)amino]methyl}biphenyl-4-yl)propionic acid | 4.1 mmol, 1.6 g | CC(C(=O)O)CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(=O)C1=CC=CC=C1)C | C25H25NO3
reactant | oxalyl chloride | 4.5 mmol, 390 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(3′-{[Methyl-(1-phenylmethanoyl)amino]-methyl}biphenyl-4-yl)propionyl chloride | CN(C(=O)C1=CC=CC=C1)CC=1C=C(C=CC1)C1=CC=C(C=C1)CCC(=O)Cl | C24H22ClNO2
